US05500408
To a solution of 0.49 g of 3-amino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole and 0.22 g of triethylamine in N,N-dimethylformamide, 0.27 g of isobutyryl chloride was added and the mixture was heated at 60° C. for 12 hours. After allowing to cool, the mixture was poured into water and was extracted with ether. The ether layer was washed twice with dilute hydrochloric acid, twice with water and twice with saturated aqueous sodium chloride solution. The resultant was dried over anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography to obtain 0.23 g of 3-isobutyrylamino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole.

reactant | 3-amino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole | 0.49 g | NC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C8H5Cl2N3S
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.27 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-isobutyrylamino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole | 0.23 g | C(C(C)C)(=O)NC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C12H11Cl2N3OS
